US05064863
A mixture of 4.0 g of tyramine and 5.25 g of phenyl glycidyl ether in 100 ml of dimethylsulfoxide was heated to 100° for 17 hours. The solvent was evaporated in vacuo and the residue was chromatographed on 400 g of silica gel. 4.3 g of p-[2-[bis[(RS)-2-hydroxy-3-phenoxypropyl]amino]ethyl]phenol was firstly eluted with chloroform/npropanol/concentrated ammonia (1000:10:1) as an amorphous substance, ε218 =20710. The further fractions yielded 4.2 g of pure (RS)-p-[2-[(2-hydroxy-3-phenoxypropyl) amino]ethyl]phenol of m.p. 122°-124°, ε221 =15310.

reactant | tyramine | 4.0 g | NCCC1=CC=C(C=C1)O | C8H11NO
reactant | phenyl glycidyl ether | 5.25 g | C(C1CO1)OC1=CC=CC=C1 | C9H10O2
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
product | (RS)-p-[2-[(2-hydroxy-3-phenoxypropyl) amino]ethyl]phenol | 4.2 g | OC(CNCCC1=CC=C(C=C1)O)COC1=CC=CC=C1 | C17H21NO3
